* C:\Users\crisgvenezia\Desktop\repo\sim 2do cuatri\prueba.asc
V1 +50 0 50
V2 0 -50 50
V3 +15 0 15
V4 0 -15 15
Q19 N009 N009 N012 0 BC546B
Q20 N010 N009 N011 0 BC546B
Q21 N009 N008 N005 0 BC556B
V5 N006 0 SINE(0 0.0005 1k)
Q22 N010 N007 N004 0 BC556B
Q18 N002 N001 +15 0 BC556B
R11 N002 0 4k7
Q23 N003 N002 N001 0 BC556B
R12 0 N008 10k
R17 N007 0 10k
C3 N007 N006 47µ
R28 N006 0 10k
R29 +15 N001 320
R1 N003 N004 100
R2 N003 N005 100
R3 N011 -15 100
R4 N012 -15 100
.model NPN NPN
.model PNP PNP
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.bjt
.MODEL DZ1 D BV=3.3
.MODEL MPSA56  PNP (
+ IS=120.32E-15 BF=188.84 VAF=100 IKF=2.8075
+ ISE=135.83E-15 NE=1.4750 BR=24.295 VAR=100
+ IKR=2.3092 ISC=703.00E-15 NC=1.6487 NK=1.3505
+ RB=1.9849 RC=24.680E-3 CJE=96.427E-12 VJE=.83382
+ MJE=.41469 CJC=52.708E-12 VJC=1.2213 MJC=.57874
+ TF=620.18E-12 XTF=49.825 VTF=22.355 ITF=.93852
+ TR=10.000E-9)
.MODEL MJE340 NPN
+IS=1.03431e-13 BF=172.974 NF=0.939811 VAF=27.3487
+IKF=0.0260146 ISE=4.48447e-11 NE=1.61605 BR=16.6725
+NR=0.796984 VAR=6.11596 IKR=0.10004 ISC=9.99914e-14
+NC=1.99995 RB=1.47761 IRB=0.2 RBM=1.47761
+RE=0.0001 RC=1.42228 XTB=2.70726 XTI=1
+EG=1.206 CJE=1e-11 VJE=0.75 MJE=0.33
+TF=1e-09 XTF=1 VTF=10 ITF=0.01
+CJC=1e-11 VJC=0.75 MJC=0.33 XCJC=0.9
+FC=0.5 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL 2SC3281 NPN(IS=10.000E-15 BF=155.65 VAF=100 IKF=9.2028 XTB=1.5
+ISE=54.325E-15 NE=1.3056 BR=10.787 VAR=100 IKR=1.8561 ISC=106.69E-15
+NC=1.6728 RC=26.745E-3 CJE=2.0000E-12 CJC=534.41E-12
+MJC=.33333 TF=8.0821E-9 XTF=3.1968 VTF=21.461E-3 ITF=169.59 TR=187.91E-9 )
.MODEL MBR1645 D(Is=159u Rs=.02 N=1.76 TT=10n Cjo=740p M=.6 Eg=.69 Xti=2 Iave=16 Vpk=45 mfg=OnSemi type=Schottky)
.MODEL 2SA1302 PNP( IS=21.479E-12 BF=136.48 VAF=100 IKF=19.980 ISE=21.504E-12
+NE=1.3784 BR=329.48 VAR=100 IKR=19.980 ISC=4.3670E-9 NC=1.4264 RC=93.301E-3
+CJE=755.31E-12 MJE=.33333 CJC=1.1417E-9 MJC=.33333 TF=1.2802E-9 XTF=10 VTF=10
+ITF=1 TR=10.000E-9)
.MODEL MJE350 PNP
+IS=6.01619e-15 BF=157.387 NF=0.910131 VAF=23.273
+IKF=0.0564808 ISE=4.48479e-12 NE=1.58557 BR=0.1
+NR=1.03823 VAR=4.14543 IKR=0.0999978 ISC=1.00199e-13
+NC=1.98851 RB=0.1 IRB=0.202965 RBM=0.1
+RE=0.0710678 RC=0.355339 XTB=1.03638 XTI=3.8424
+EG=1.206 CJE=1e-11 VJE=0.75 MJE=0.33
+TF=1e-09 XTF=1 VTF=10 ITF=0.01
+CJC=1e-11 VJC=0.75 MJC=0.33 XCJC=0.9
+FC=0.5 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL MPSA06  NPN (
+ IS=573.03E-15 BF=163.91 VAF=100 IKF=4.9413
+ ISE=573.03E-15 NE=1.4705 BR=11.586 VAR=100
+ IKR=1.0936 ISC=41.155E-12 NC=1.6728 NK=1.9941
+ RB=2.7266 RC=7.8704E-3 CJE=61.424E-12 VJE=.70914
+ MJE=.34878 CJC=17.993E-12 VJC=.48376 MJC=.38719
+ TF=392.62E-12 XTF=16.608 VTF=7.5383 ITF=.38614
+ TR=10.000E-9 )
.fourier 1k 100 V(N016)
.tran 0 9m 6m
.MODEL D1N746   D(Is=31.47f Rs=9.494 Ikf=0 N=1 Xti=3 Eg=1.11 Cjo=220p M=.5959
+ Vj=.75 Fc=.5 Isr=2.035n Nr=2 Bv=3.3 Ibv=45.862m Nbv=3.0477
+ Ibvl=29.831m Nbvl=11.606 Tbv1=-636.4u)
.model D1N4148 D (IS=0.1PA, RS=16 CJO=2PF TT=12N BV=100 IBV=0.1PA)
.MODEL MPSA92 PNP (
+ IS=28.39F
+ BF=127.12
+ VAF=13.033
+ IKF=.1566
+ ISE=103.89E-15
+ NE=1.2763
+ BR=499.50
+ VAR=50
+ IKR=3.5m
+ ISC=1500P
+ NC=2.9970
+ NR=1
+ NF=1
+ RB=11.300
+ RC=778.1m
+ RE=490.00E-6
+ CJE=109.36E-12
+ VJE=1.2027
+ MJE=.36517
+ CJC=22.069E-12
+ VJC=1.5000
+ MJC=.47644
+ TF=5.0525E-9
+ XTF=4.4954
+ XTB=1.5
+ VTF=24.240
+ ITF=.30881
+ TR=4.8693E-6 )
.MODEL MPSA42 NPN(
+ IS=18.36E-15
+ BF=60.596
+ VAF=9.2909
+ IKF=.0207
+ ISE=1.3215E-12
+ NE=1.7767
+ NF=1.15
+ BR=499.50
+ VAR=100
+ IKR=19.980
+ ISC=75E-9
+ NC=3.9970
+ RE=490.00E-6
+ RB=5.2315
+ RC=1.0000E-3
+ CJE=104.69E-12
+ VJE=1.0643
+ MJE=.41036
+ CJC=9.8356E-12
+ VJC=.35
+ MJC=.28065
+ TF=5.1798E-9
+ XTF=3.2122
+ VTF=25.040
+ ITF=.19258
+ XTB=1.5
+ TR=6.837E-6)
.backanno
.end
