* C:\Users\crisgvenezia\Desktop\repo\simulaciones\ampli_g_8_8_15.asc
Q1 +50 N006 N007 0 2SC3281
Q2 +50 N004 N006 0 MJE340
R1 N006 N007 100R
D1 +15 N007 MBR1645
D2 N003 N004 D
D3 N008 N003 DZ1
Q3 +50 N009 N011 0 MJE340
Q4 N007 N011 N013 0 2SC3281
R2 N013 N015 0R1
R3 N018 N027 100
R4 N015 0 8R
R5 N015 N024 0R1
Q5 N029 N027 N024 0 2SA1302
Q6 -50 N028 N027 0 MJE350
Q7 -50 N032 N029 0 2SA1302
Q8 -50 N035 N032 0 MJE350
R6 N029 N032 100R
D4 N034 N008 DZ1
D5 N035 N034 D
D6 N029 -15 MBR1645
R7 N009 N008 100R
R8 N028 N008 100R
Q11 N008 N014 N010 0 MJE340
Q12 N008 N020 N010 0 MJE350
R13 N008 N014 1.5k
R14 N014 N020 2.8k
R15 N020 N008 1.5k
Q13 N034 N033 -50 0 MPSA06
Q14 N033 N033 -50 0 MPSA06
R16 0 N033 12k
V1 +50 0 50
V2 0 -50 50
V3 +15 0 15
V4 0 -15 15
Q15 N010 N019 N026 0 MPSA06
R18 N026 -50 {R18}
Q17 0 N012 N019 0 MPSA06
R19 N019 -50 100
R21 N011 N018 100R
Q19 N025 N025 N031 0 MPSA06
Q20 N012 N025 N030 0 MPSA06
Q21 N025 N023 N017 0 MPSA56
V5 N021 0 SINE(0 1 1k) AC 1
Q22 N012 N022 N016 0 MPSA56
R22 N031 -50 100
R23 N005 N016 100
R24 N005 N017 100
R25 N030 -50 100
Q9 N003 N001 +50 0 MPSA56
Q10 N001 N001 +50 0 MPSA56
R9 N001 0 12k
Q16 P001 N002 +50 0 MPSA56
Q18 N002 N002 +50 0 MPSA56
R11 N002 0 8800
Q23 N005 N002 +50 0 MPSA56
R10 N023 P002 256
R12 N015 N023 10k
Q24 N012 N022 N016 0 MPSA56
Q25 N025 N023 N017 0 MPSA56
R17 N022 0 10k
C2 P002 0 10µ
C3 N022 N021 47µ
C4 N010 N012 200p
R20 P001 0 10k
I1 +50 N010 12m
R26 +50 N010 100k
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.bjt
.tran 10m
.MODEL DZ1 D BV=3.3
.MODEL MPSA56  PNP (
+ IS=120.32E-15 BF=188.84 VAF=100 IKF=2.8075
+ ISE=135.83E-15 NE=1.4750 BR=24.295 VAR=100
+ IKR=2.3092 ISC=703.00E-15 NC=1.6487 NK=1.3505
+ RB=1.9849 RC=24.680E-3 CJE=96.427E-12 VJE=.83382
+ MJE=.41469 CJC=52.708E-12 VJC=1.2213 MJC=.57874
+ TF=620.18E-12 XTF=49.825 VTF=22.355 ITF=.93852
+ TR=10.000E-9)
.MODEL MJE340 NPN
+IS=1.03431e-13 BF=172.974 NF=0.939811 VAF=27.3487
+IKF=0.0260146 ISE=4.48447e-11 NE=1.61605 BR=16.6725
+NR=0.796984 VAR=6.11596 IKR=0.10004 ISC=9.99914e-14
+NC=1.99995 RB=1.47761 IRB=0.2 RBM=1.47761
+RE=0.0001 RC=1.42228 XTB=2.70726 XTI=1
+EG=1.206 CJE=1e-11 VJE=0.75 MJE=0.33
+TF=1e-09 XTF=1 VTF=10 ITF=0.01
+CJC=1e-11 VJC=0.75 MJC=0.33 XCJC=0.9
+FC=0.5 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL 2SC3281 NPN(IS=10.000E-15 BF=155.65 VAF=100 IKF=9.2028 XTB=1.5
+ISE=54.325E-15 NE=1.3056 BR=10.787 VAR=100 IKR=1.8561 ISC=106.69E-15
+NC=1.6728 RC=26.745E-3 CJE=2.0000E-12 CJC=534.41E-12
+MJC=.33333 TF=8.0821E-9 XTF=3.1968 VTF=21.461E-3 ITF=169.59 TR=187.91E-9 )
.MODEL MBR1645 D(Is=159u Rs=.02 N=1.76 TT=10n Cjo=740p M=.6 Eg=.69 Xti=2 Iave=16 Vpk=45 mfg=OnSemi type=Schottky)
.MODEL 2SA1302 PNP( IS=21.479E-12 BF=136.48 VAF=100 IKF=19.980 ISE=21.504E-12
+NE=1.3784 BR=329.48 VAR=100 IKR=19.980 ISC=4.3670E-9 NC=1.4264 RC=93.301E-3
+CJE=755.31E-12 MJE=.33333 CJC=1.1417E-9 MJC=.33333 TF=1.2802E-9 XTF=10 VTF=10
+ITF=1 TR=10.000E-9)
.MODEL MJE350 PNP
+IS=6.01619e-15 BF=157.387 NF=0.910131 VAF=23.273
+IKF=0.0564808 ISE=4.48479e-12 NE=1.58557 BR=0.1
+NR=1.03823 VAR=4.14543 IKR=0.0999978 ISC=1.00199e-13
+NC=1.98851 RB=0.1 IRB=0.202965 RBM=0.1
+RE=0.0710678 RC=0.355339 XTB=1.03638 XTI=3.8424
+EG=1.206 CJE=1e-11 VJE=0.75 MJE=0.33
+TF=1e-09 XTF=1 VTF=10 ITF=0.01
+CJC=1e-11 VJC=0.75 MJC=0.33 XCJC=0.9
+FC=0.5 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL MPSA06  NPN (
+ IS=573.03E-15 BF=163.91 VAF=100 IKF=4.9413
+ ISE=573.03E-15 NE=1.4705 BR=11.586 VAR=100
+ IKR=1.0936 ISC=41.155E-12 NC=1.6728 NK=1.9941
+ RB=2.7266 RC=7.8704E-3 CJE=61.424E-12 VJE=.70914
+ MJE=.34878 CJC=17.993E-12 VJC=.48376 MJC=.38719
+ TF=392.62E-12 XTF=16.608 VTF=7.5383 ITF=.38614
+ TR=10.000E-9 )
.param R18 68
;150
.backanno
.end
